US05656645
Ethyl 2-methyl-pyrimidin-6(1H)-one-5-carboxylate
Acetamidine acetate (37.21 g, 0.31 mole) and diethyl ethoxymethylenemalonate (63 mL, 0.31 mole) were refluxed for 4 h in ethanol (60 mL). The reaction mixture was allowed to cool for 15 min., then acetamidine acetate (37.21 g, 0.31 mole) was added. The reaction mixture was refluxed for 22 hours, allowed to cool to room temperature, and diluted with water (200 mL) and dichloromethane (200 mL). The aqueous layer was extracted with 10% isopropanol/dichloromethane (2×200 mL). The combined organic extracts were washed with water (50 mL), brine (50 mL), dried over magnesium sulfate, filtered and the solvent was removed. The residue was recrystallized from chloroform/hexanes in two crops to afford the title compound (24.92 g) in 46% yield as yellowish crystals. Rf =0.27 (silica gel, 10% isopropanol in dichloromethane). m.p. 187°-188° C.

reactant | Acetamidine acetate | 0.31 mole, 37.21 g | C(C)(=O)O.C(C)(=N)N
reactant | diethyl ethoxymethylenemalonate | 0.31 mole, 63 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | acetamidine acetate | 0.31 mole, 37.21 g | C(C)(=O)O.C(C)(=N)N
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Ethyl 2-methyl-pyrimidin-6(1H)-one-5-carboxylate | 24.92 g, 46% yield | CC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3
